US06586617B1
To a solution of 2-amino-5-(thiocyanato)benzonitrile (2.00 g (11.4 mmol)) and 42% borofluoric acid (7.16 g (34.2 mmol)) in ethanol (10.0 ml), a solution of sodium nitrite (0.87 g (12.6 mmol)) in water (1.2 ml), was added dropwise under cooling with ice. The mixture was stirred under cooling with ice for 2 hours and crystals separated were filtered. The solid was washed with water, methanol and then ether, successively, and dried under reduced pressure to give 2.98 g (95%) of 2-cyano-4-(thiocyanato)benzenediazonium fluoroborate as white crystals.

reactant | 2-amino-5-(thiocyanato)benzonitrile | 11.4 mmol, 2.00 g | NC1=C(C#N)C=C(C=C1)SC#N | C8H5N3S
reactant | borofluoric acid | 34.2 mmol, 7.16 g | [H+].[B-](F)(F)(F)F
reactant | sodium nitrite | 12.6 mmol, 0.87 g | N(=O)[O-].[Na+]
solvent | ethanol | 10.0 ml | C(C)O | C2H6O
solvent | water | 1.2 ml | O | H2O
product | 2-cyano-4-(thiocyanato)benzenediazonium fluoroborate | 2.98 g, 95% | F[B-](F)(F)F.C(#N)C1=C(C=CC(=C1)SC#N)[N+]#N | InChI=1S/C8H3N4S.BF4/c9-4-6-3-7(13-5-10)1-2-8(6)12-11;2-1(3,4)5/h1-3H;/q+1;-1
